US05646176
(c) (±)-cis-3-Acetyloxy-4-isobutenylazetidin-2-one
A solution of the (±)-cis-N-(4-methoxyphenyl)-3-acetyloxy-4-isobutenylazetidin-2-one (4.88 g, 16.2 mmol) was dissolved in acetonitrile (50 mL) and cooled to 0°-5° C. in an ice bath. To this was added a cold solution of ceric ammonium nitrate (26.6 g, 48.6 mmol, 50 mL) in one portion. The deep red reaction was allowed to stir for 10 min and during that time the color gradually lightened to orange. The cold solution was transferred to a separatory funnel, diluted with water, and extracted with ethyl acetate. The organic fraction was washed with several portions of 10% aqueous sodium sulfite, followed by saturated aqueous sodium bicarbonate. The organic fraction was dried (MgSO4) and concentrated to give the desired product (2.71 g, 91%) as a yellow-orange solid that was used directly in the next step; 1H NMR (300 MHz, CDCl3): δ 6.11 (bs, 1H), 5.73 (dd, 1H, J=2.2, 4.7 Hz), 5.12-5.08 (m, 1H), 4.63 (dd, 1H, 4.7, 9.1 Hz), 2.09 (s, 3H), 1.75 (s, 3H), 1.67 (s, 3H).

reactant | (±)-cis-N-(4-methoxyphenyl)-3-acetyloxy-4-isobutenylazetidin-2-one | 16.2 mmol, 4.88 g | COC1=CC=C(C=C1)N1C([C@H]([C@H]1C=C(C)C)OC(C)=O)=O | C16H19NO4
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | (±)-cis-3-Acetyloxy-4-isobutenylazetidin-2-one | 2.71 g, 91% | C(C)(=O)O[C@@H]1C(N[C@@H]1C=C(C)C)=O | C9H13NO3
